US07157476B2
4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine:
To a solution of 4-amino-1,2,5-oxadiazole-3-carbonitrile (220 mg, 2 mmol) and isobutylamine (0.2 mL, 2 mmol) in dichloroethane (1 mL) was added AlCl3 (293 mg, 2.2 mmol). The reaction mixture is stirred for 20 min and then quenched with ice cold water (5 mL). The mixture is extracted with diethyl ether (3×20 mL). Combined extracts was dried over anhydrous Na2SO4 and concentrated under vacuum to afford the title compound as a white solid. MS 184 M+1. The crude product was carried to next step without further purification.

reactant | 4-amino-1,2,5-oxadiazole-3-carbonitrile | 2 mmol, 220 mg | NC=1C(=NON1)C#N | C3H2N4O
reactant | isobutylamine | 2 mmol, 0.2 mL | C(C(C)C)N | C4H11N
reactant | AlCl3 | 2.2 mmol, 293 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
product | 4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine | NC=1C(=NON1)C(=N)NCC(C)C | C7H13N5O
